2184-03-03 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2184-3-2**] 03:30 PM
 URINE CULTURE - At [**2184-3-2**] 09:15 PM
 BLOOD CULTURED - At [**2184-3-2**] 09:16 PM
 FEVER - 102.8
F - [**2184-3-2**] 09:00 PM
   Admitted
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftazidime - [**2184-3-3**] 03:50 AM
   Metronidazole - [**2184-3-3**] 04:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-3-2**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-3**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.2
C (100.8
   HR: 114 (90 - 130) bpm
   BP: 124/74(85) {103/58(69) - 159/86(96)} mmHg
   RR: 21 (17 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    732 mL
                                                                    878 mL
   PO:
             TF:
   IVF:
                                                                    732 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    980 mL
   Urine:
                                                                    680 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     52 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Eyes / Conjunctiva: R pupil 1 mm larger than L, both reactive; EOMI
   Head, Ears, Nose, Throat: VP shunt track nontender
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): self,
   hospital, Sunday [**3-1**], Movement: LUE 0/5, RUE 3+/5, LLE 0/5, RLE
   [**12-25**], Tone: Increased, upgoing babinski's bilaterally, clonus esp. in
   RUE, BLEs
   Labs / Radiology
   283 K/uL
   9.8 g/dL
   163 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   16 mg/dL
   108 mEq/L
   138 mEq/L
   27.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
   WBC
   11.8
   14.8
   Hct
   27.4
   27.6
   Plt
   370
   283
   Cr
   1.2
   1.2
   1.4
   Glucose
   106
   159
   163
   Other labs: PT / PTT / INR:14.7/32.5/1.3, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:10.0 %, Eos:0.0 %, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P:  60 yo F with PMHx sig. for HIV (CD4 cout 139 this admission) who
   was recently hospitalized with cryptococcal meningitis requiring a VP
   shunt ([**2-6**]) who was readmitted with malfunctioning shunt and now has a
   fluid collection in her brain with concern for impending herniation.
   .
   1.  Cerebral fluid collection:  After discussion with Neurosurgery,
   Neurology, and ID, this is most likely an infectious fluid collection
   or possibly a sterile fluid collection given lack of fever and
   leukocytosis.  This is not felt to be a stroke.  The main concern is
   herniation at this point.
   - neuro checks q2 hrs
   - elevated HOB
   - avoid hypotension to maintain CPP
   - cont mannitol 50 g q6; holding for osm >320, Na >150; monitor renal
   failure
   - hold steroids for now given likely infection
   - if pt decompensates will intubate to hyperventilation for pCO2 goal
   of 30 and will STAT page Neurosurg for emergent decompressive
   craniectomy.
   - will intensify cryptococcal infection with ambisome and flucytosine
   - will cover for retrograde infection from abdomen wtih
   vanc/ceftax/flagyl
   - will d/w Neurosurg re: sampling shunt v. LP by IR
   - US-guided aspiration of abdominal fluid collection though previous
   cultures have been negative, which is more reassuring
   .
   2.  Cryptococcal meninigitis:
   - cont ambisome and flucytosine
   .
   3.  Abdominal fluid collection:  Previous cultures from [**2-17**] negative
   for bacterial infection.
   - will cover for retrograde infection from abdomen wtih
   vanc/ceftax/flagyl
   - US-guided aspiration of abdominal fluid collection though previous
   cultures have been negative, which is more reassuring
   .
   4.  Hypokalemia and metabolic acidosis:  Pt has been presumptively
   treated for RTA with po sodium bicarb.
   - urine studies
   - replete K
   - replace bicarb via IV/amps
   .
   5.  C. diff:  Pt already completed 10 day course of flagyl.
   - cont flagyl
   .
   6.  HIV/AIDS:
   - Refusing HAART meds
   - Dapsone for PCP [**Name Initial (PRE) 1694**]
   .
   7.  Hypothyroidism:
   - cont. levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-03-03 09:11:00 Physician Attending Progress Note
Chief Complaint: Acute stroke
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo women with AIDS, cryptococcal meningitis, c/b need for V-P shunt,
   readmitted for shunt migration, and now with likely intracerebral
   infection and left hemiparesis.
   Overnight patient stable.  Left sided hemiparesis unchanged, and right
   sided movement unchanged.
   24 Hour Events:
 PICC LINE - START [**2184-3-2**] 03:30 PM
 URINE CULTURE - At [**2184-3-2**] 09:15 PM
 BLOOD CULTURED - At [**2184-3-2**] 09:16 PM
 FEVER - 102.8
F - [**2184-3-2**] 09:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftazidime - [**2184-3-3**] 03:50 AM
   Metronidazole - [**2184-3-3**] 04:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-3-2**] 10:02 PM
   Other medications:
   vanco
   asa
   hep s/q
   dapsone
   levoxyl
   ceftaz
   mannitol
   ambisome
   flycytosine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-3**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.2
C (100.8
   HR: 109 (90 - 130) bpm
   BP: 136/65(81) {103/58(69) - 159/86(96)} mmHg
   RR: 22 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    732 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                    732 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    980 mL
   Urine:
                                                                    680 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     52 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: No(t) Pupils dilated, right pupil>left
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Not assessed, Tone: Not assessed,
   minimally response, non verbal
   Labs / Radiology
   9.8 g/dL
   283 K/uL
   163 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   16 mg/dL
   108 mEq/L
   138 mEq/L
   27.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
   WBC
   11.8
   14.8
   Hct
   27.4
   27.6
   Plt
   370
   283
   Cr
   1.2
   1.2
   1.4
   Glucose
   106
   159
   163
   Other labs: PT / PTT / INR:14.7/32.5/1.3, Differential-Neuts:83.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:10.0 %, Eos:0.0 %, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: osm 290
   Assessment and Plan
   Cryptococcal cerebritis:  Worsening mental status this morning.  Not
   communicative.  Will alert NSG and discuss with family if they would
   want craniectomy.
   If wanting agressive care, would probably intubate and hyperventilate.
   Continue ambisome and flucytosine for cryptos as well as vanco/ceftaz
   for possible bacterial superinfection.
   C. diff: on flagyl
   AIDS:  has been refusing HAART medication.
   overal prognosis seems poor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-03-04 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - DNR/DNI overnight, family wants to make patient CMO this morning
   - no plans for surgery or escalation of intervention
 FEVER - 101.7
F - [**2184-3-3**] 02:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2184-3-3**] 07:40 PM
   Ambisome - [**2184-3-3**] 10:20 PM
   Ceftazidime - [**2184-3-4**] 03:30 AM
   Metronidazole - [**2184-3-4**] 06:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-3-3**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2184-3-3**] 07:44 PM
   Morphine Sulfate - [**2184-3-3**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-4**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.7
C (98
   HR: 92 (90 - 110) bpm
   BP: 111/54(67) {77/43(50) - 143/72(86)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,362 mL
                                                                    897 mL
   PO:
             TF:
   IVF:
                                                                  2,362 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    645 mL
   Urine:
                                                                  2,965 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Eyes / Conjunctiva: R pupil 1 mm larger than L, both reactive; EOMI
   Head, Ears, Nose, Throat: VP shunt track nontender
   Cardiovascular: normal PMI, normal S1/S2
   Respiratory / Chest: Clear breath sounds, Diminished at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: Markedly decreased responsiveness and level of arousal
   today,  Movement: LUE 0/5, RUE 3+/5, LLE 0/5, RLE [**12-25**], Tone: Increased,
   upgoing babinski's bilaterally, clonus esp. in RUE, BLEs
   Labs / Radiology
   196 K/uL
   8.6 g/dL
   114 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.6 mEq/L
   19 mg/dL
   109 mEq/L
   138 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
                             [**2184-3-4**]  02:14 AM
   WBC
   11.8
   14.8
   11.1
   Hct
   27.4
   27.6
   25.9
   Plt
   370
   283
   196
   Cr
   1.2
   1.2
   1.4
   1.6
   Glucose
   106
   159
   163
   114
   Other labs: PT / PTT / INR:16.2/45.2/1.4, Differential-Neuts:83.9 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.2 %, Eos:4.8 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   60 yo F with PMHx sig. for HIV (CD4 cout 139 this admission) who was
   recently hospitalized with cryptococcal meningitis requiring a VP shunt
   ([**2-6**]) who was readmitted with malfunctioning shunt and now has a fluid
   collection in her brain with concern for impending herniation.
   .
   1.  Cerebral fluid collection:  After discussion with Neurosurgery,
   Neurology, and ID, this is most likely an infectious fluid collection
   or possibly a sterile fluid collection given lack of fever and
   leukocytosis.  This is not felt to be a stroke.  The main concern is
   herniation at this point.  Neuro exam markedly worse this AM over acute
   period.  Family made aware and have decided that they do not want
   aggressive intervention regarding surgical treatment.
   - neuro checks q2 hrs
   - elevated HOB
   - avoid hypotension to maintain CPP
   - can discontinue mannitol as renal function is worsening and serum osm
   was 316 this morning. (was 50 g q6 with goal osm >320, Na >150)
   - hold steroids for now given likely infection
   - cont  ambisome and flucytosine
   - cont coverage for retrograde infection from abdomen wtih
   vanc/ceftax/flagyl
   - Neurosurgery made aware that patients status has deteriorated and
   that family does not want to pursue operative management or intubation
   .
   2.  Cryptococcal meninigitis:
   - cont ambisome and flucytosine
   .
   3.  Abdominal fluid collection:  Previous cultures from [**2-17**] negative
   for bacterial infection.
   - cont coverage for retrograde infection from abdomen wtih
   vanc/ceftax/flagyl
   .
   4.  Hypokalemia and metabolic acidosis:  Pt has been presumptively
   treated for RTA with po sodium bicarb.
   - replace bicarb via IV/amps
   .
   5.  C. diff:  Pt already completed 10 day course of flagyl.
   - cont flagyl
   .
   6.  HIV/AIDS:
   - Refusing HAART meds
   - will discontinue Dapsone for PCP [**Name9 (PRE) 1694**] for now as patient not taking
   PO
   .
   7.  Hypothyroidism:
   - cont. levothyroxine
   FEN:  NPO
   Prophylaxis:  pneumoboots/heparin sq, PPI, bowel regimen
   Access:  PICC
   Code status:  DNR/DNI, may be made CMO today at which point abx will
   likely be discontinued.
   Dispo:  ICU care for now, family plans to come today to assess goals of
   care today.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT: heparin SC, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:

2184-03-04 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo women with AIDS, with crypto meningitis, c/b cerebritis,
   hemiparalysis.  family opting for CMO
   24 Hour Events:
 FEVER - 101.7
F - [**2184-3-3**] 02:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2184-3-3**] 10:20 PM
   Metronidazole - [**2184-3-4**] 06:30 AM
   Vancomycin - [**2184-3-4**] 09:00 AM
   Ceftazidime - [**2184-3-4**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-3-3**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2184-3-3**] 07:44 PM
   Morphine Sulfate - [**2184-3-3**] 09:35 PM
   Other medications:
   ampho
   flucytosine
   dapsone
   synthroid
   mannitol
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-4**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 35.5
C (95.9
   HR: 94 (89 - 110) bpm
   BP: 96/52(62) {77/43(50) - 143/72(86)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,362 mL
                                                                  1,270 mL
   PO:
             TF:
   IVF:
                                                                  2,362 mL
                                                                  1,270 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    970 mL
   Urine:
                                                                  2,965 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed,
   Paralyzed, Tone: Not assessed, left hemiparesis
   Labs / Radiology
   8.6 g/dL
   196 K/uL
   114 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.6 mEq/L
   19 mg/dL
   109 mEq/L
   138 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
                             [**2184-3-4**]  02:14 AM
   WBC
   11.8
   14.8
   11.1
   Hct
   27.4
   27.6
   25.9
   Plt
   370
   283
   196
   Cr
   1.2
   1.2
   1.4
   1.6
   Glucose
   106
   159
   163
   114
   Other labs: PT / PTT / INR:16.2/45.2/1.4, Differential-Neuts:83.9 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.2 %, Eos:4.8 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: OSM 310
   Assessment and Plan
   Cryptococcal meningitis c/b cerebritis, CSF fluid collection.
   brain edema:  osm 316, and creatining increasing so will stop mannitol
   family likely to make CMO later today
   will get palliative care consult
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2184-03-05 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - made [** 303**]
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2184-3-3**] 10:20 PM
   Metronidazole - [**2184-3-4**] 06:30 AM
   Vancomycin - [**2184-3-4**] 09:00 AM
   Ceftazidime - [**2184-3-4**] 10:00 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-5**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 134 (84 - 134) bpm
   BP: 129/82(94) {68/39(47) - 129/82(94)} mmHg
   RR: 28 (10 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,433 mL
                                                                    104 mL
   PO:
             TF:
   IVF:
                                                                  1,433 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    225 mL
   Urine:
                                                                  1,720 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -287 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: R pupil 1 mm larger than L, both reactive; EOMI
   Head, Ears, Nose, Throat: VP shunt track nontender
   Cardiovascular: normal PMI, normal S1/S2
   Respiratory / Chest: Clear breath sounds, Diminished at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: Markedly decreased responsiveness and level of arousal
   today,  Movement: LUE 0/5, RUE 3+/5, LLE 0/5, RLE [**12-25**], Tone: Increased,
   upgoing babinski's bilaterally, clonus esp. in RUE, BLEs
   Labs / Radiology
   196 K/uL
   8.6 g/dL
   114 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   19 mg/dL
   109 mEq/L
   140 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
                             [**2184-3-4**]  02:14 AM
   WBC
   11.8
   14.8
   11.1
   Hct
   27.4
   27.6
   25.9
   Plt
   370
   283
   196
   Cr
   1.2
   1.2
   1.4
   1.6
   Glucose
   106
   159
   163
   114
   Other labs: PT / PTT / INR:16.2/45.2/1.4, Differential-Neuts:83.9 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.2 %, Eos:4.8 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   60 yo F with PMHx sig. for HIV (CD4 cout 139 this admission) who was
   recently hospitalized with cryptococcal meningitis requiring a VP shunt
   ([**2-6**]) who was readmitted with malfunctioning shunt and now has a fluid
   collection in her brain with concern for impending herniation.
   .
   1.  Cerebral fluid collection:  After discussion with Neurosurgery,
   Neurology, and ID, this is most likely an infectious fluid collection
   or possibly a sterile fluid collection given lack of fever and
   leukocytosis.  This is not felt to be a stroke.  The main concern is
   herniation at this point.  Neuro exam markedly worse this AM over acute
   period.  Family made aware and have decided that they do not want
   aggressive intervention regarding surgical treatment.  Patient made [**Month/Year (2) 303**]
   .
   2.  Cryptococcal meninigitis:  Continued on ambisome and flucytosine.
   D/C when [**Month/Year (2) 303**]
   .
   3.  Abdominal fluid collection:  Previous cultures from [**2-17**] negative
   for bacterial infection.  Upon MICU admit, patient continued on
   vanco/ceftax/flagyl.  D/C when [**Month/Day (4) 303**]
   .
   4.  Hypokalemia and metabolic acidosis:  Pt has been presumptively
   treated for RTA with po sodium bicarb.
   .
   5.  C. diff:  Pt already completed 10 day course of flagyl.
   .
   6.  HIV/AIDS:  Was continued on Dapsone for PCP [**Name Initial (PRE) 1694**].
   - Refusing HAART meds
   .
   7.  Hypothyroidism
   FEN:  NPO
   Prophylaxis:  pneumoboots
   Access:  PICC
   Code status:  [**Name Initial (PRE) 303**].  DNR/DNI
   Dispo:  [**Last Name (LF) 303**], [**First Name3 (LF) 116**] discuss options with palliative care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2184-03-05 11:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo women with cryptococcal PNA, made CMO
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2184-3-3**] 10:20 PM
   Metronidazole - [**2184-3-4**] 06:30 AM
   Vancomycin - [**2184-3-4**] 09:00 AM
   Ceftazidime - [**2184-3-4**] 10:00 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-5**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 117 (84 - 138) bpm
   BP: 91/54(62) {68/39(47) - 129/82(94)} mmHg
   RR: 25 (10 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,433 mL
                                                                    164 mL
   PO:
             TF:
   IVF:
                                                                  1,433 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    250 mL
   Urine:
                                                                  1,720 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -287 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), good air movement
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   196 K/uL
   114 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   19 mg/dL
   109 mEq/L
   140 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
                             [**2184-3-4**]  02:14 AM
   WBC
   11.8
   14.8
   11.1
   Hct
   27.4
   27.6
   25.9
   Plt
   370
   283
   196
   Cr
   1.2
   1.2
   1.4
   1.6
   Glucose
   106
   159
   163
   114
   Other labs: PT / PTT / INR:16.2/45.2/1.4, Differential-Neuts:83.9 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.2 %, Eos:4.8 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   To get palliative care consult to discuss disposition options.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2184-03-06 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2184-3-5**] 10:00 AM
   Continued CMO
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ambisome - [**2184-3-3**] 10:20 PM
   Metronidazole - [**2184-3-4**] 06:30 AM
   Vancomycin - [**2184-3-4**] 09:00 AM
   Ceftazidime - [**2184-3-4**] 10:00 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-3-6**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.3
C (101
   HR: 112 (101 - 138) bpm
   BP: 88/40(50) {88/40(50) - 92/54(62)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    336 mL
                                                                    128 mL
   PO:
             TF:
   IVF:
                                                                    336 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                    128 mL
   Respiratory support
   SpO2: 93%
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: R pupil 1 mm larger than L, both reactive; EOMI
   Head, Ears, Nose, Throat: VP shunt track nontender
   Cardiovascular: normal PMI, normal S1/S2
   Respiratory / Chest: Clear breath sounds, Diminished at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Neurologic: Markedly decreased responsiveness and level of arousal
   today,  Movement: LUE 0/5, RUE 3+/5, LLE 0/5, RLE [**12-25**], Tone: Increased,
   upgoing babinski's bilaterally, clonus esp. in RUE, BLEs
   Labs / Radiology
   196 K/uL
   8.6 g/dL
   114 mg/dL
   1.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   19 mg/dL
   109 mEq/L
   140 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-3-2**]  04:59 PM
                             [**2184-3-3**]  01:06 AM
                             [**2184-3-3**]  05:09 AM
                             [**2184-3-4**]  02:14 AM
   WBC
   11.8
   14.8
   11.1
   Hct
   27.4
   27.6
   25.9
   Plt
   370
   283
   196
   Cr
   1.2
   1.2
   1.4
   1.6
   Glucose
   106
   159
   163
   114
   Other labs: PT / PTT / INR:16.2/45.2/1.4, Differential-Neuts:83.9 %,
   Band:0.0 %, Lymph:6.7 %, Mono:4.2 %, Eos:4.8 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   60 yo F with PMHx sig. for HIV (CD4 cout 139 this admission) who was
   recently hospitalized with cryptococcal meningitis requiring a VP shunt
   ([**2-6**]) who was readmitted with malfunctioning shunt and now has a fluid
   collection in her brain with concern for impending herniation.
   .
   1.  Cerebral fluid collection:  After discussion with Neurosurgery,
   Neurology, and ID, this is most likely an infectious fluid collection
   or possibly a sterile fluid collection given lack of fever and
   leukocytosis.  This is not felt to be a stroke.  The main concern is
   herniation at this point.  Neuro exam markedly worse this AM over acute
   period.  Family made aware and have decided that they do not want
   aggressive intervention regarding surgical treatment.  Patient made CMO
   .
   2.  Cryptococcal meninigitis:  Continued on ambisome and flucytosine.
   D/C when CMO
   .
   3.  Abdominal fluid collection:  Previous cultures from [**2-17**] negative
   for bacterial infection.  Upon MICU admit, patient continued on
   vanco/ceftax/flagyl.  D/C when CMO
   .
   4.  Hypokalemia and metabolic acidosis:  CMO
   .
   5.  C. diff:  Pt already completed 10 day course of flagyl.
   .
   6.  HIV/AIDS:  Was continued on Dapsone for PCP [**Name Initial (PRE) 1694**].
   - Refusing HAART meds
   .
   7.  Hypothyroidism
   FEN:  NPO
   Prophylaxis:  pneumoboots
   Access:  PICC
   Code status:  CMO.  DNR/DNI
   Dispo:  CMO.  Palliative care unable to place patient over weekend.
   Will continued morphine gtt for patient comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-3-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: